US07135475B2
N-{5-[3-Butyl-1-(2-fluorobenzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-pyridin-2-yl}-acetamide
This compound was prepared by the method similar to that described in example 11 (method 1) except that the hydrochloride salt of (6-acetylamino-pyridin-3-yl)-acetic acid was used in place of N-acetyl-4-aminophenylacetic acid and the coupling to 5,6-diamino-1-butyl-3-(2-fluorobenzyl)-1H-pyrimidine-2,4-dione was performed with O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate and diisopropylethyl amine in N,N-dimethylformamide. MS, m/z(M+)=464.1971.

reactant | (6-acetylamino-pyridin-3-yl)-acetic acid | C(C)(=O)NC1=CC=C(C=N1)CC(=O)O | C9H10N2O3
reactant | 5,6-diamino-1-butyl-3-(2-fluorobenzyl)-1H-pyrimidine-2,4-dione | NC=1C(N(C(N(C1N)CCCC)=O)CC1=C(C=CC=C1)F)=O | C15H19FN4O2
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | diisopropylethyl amine | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | N-{5-[3-Butyl-1-(2-fluorobenzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-pyridin-2-yl}-acetamide | C(CCC)N1C(N(C(C=2NC(=NC12)CC=1C=CC(=NC1)NC(C)=O)=O)CC1=C(C=CC=C1)F)=O | C24H25FN6O3
